US06150524
4,5α-Epoxy-6α-((5-methoxycarbonyl-valeryl)-oxy)-17-methyl-morphinan-3-ol acetate
4,5α-epoxy-6α-((5-methoxycarbonyl-valeryl)-oxy)-3-methoxymethoxy-17-methyl-morphinane (0.43 g, 0.91 mmol) was mixed with H2O (15 ml) and glacial acetic acid (15 ml) and stirred for 6 hours at 100° C. The mixture was then evaporated down at 40° C. using a Rotavapor and the residue obtained was purified by flash chromatography (60 g silical gel; CH2Cl2 /MeOH=9/1). The product was dissolved in H2O (6 ml) and glacial acetic acid (0.6 ml) and lyophilised. Yield: 0.221 g (0.45 mmol, 49.7%).

reactant | 4,5α-epoxy-6α-((5-methoxycarbonyl-valeryl)-oxy)-3-methoxymethoxy-17-methyl-morphinane | 0.91 mmol, 0.43 g | O1C2=C(C=CC=3C[C@@H]4[C@@H]5CC[C@@H]([C@H]1[C@@]5(C23)CCN4C)OC(CCCCC(=O)OC)=O)OCOC | C26H35NO7
reactant | H2O | 15 ml | O | H2O
reactant | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 4,5α-Epoxy-6α-((5-methoxycarbonyl-valeryl)-oxy)-17-methyl-morphinan-3-ol acetate | C(C)(=O)OC=1C=CC=2C[C@@H]3[C@@H]4CC[C@@H]([C@H]5[C@@]4(C2C1O5)CCN3C)OC(CCCCC(=O)OC)=O | C26H33NO7
